US05532358
A solution of 2-(cyclopropylamino)-N-(2-methoxy-4-methyl-3-pyridinyl)-3-pyridinecarboxamide (0.3 g, 1 mmol) in 2 mL of dry pyridine under an argon atmosphere was treated with 2.2 mL of a 1.0M solution of NaHMDS. The solution was then warmed to 90° C. for 6 h. Upon cooling, the mixture was partitioned between EtOAc and 0.5N HCl. The EtOAc layer was then washed further with 0.5N HCl, dried (MgSO4) and concentrated. The residue was purified by flash chromatography on silica gel (1:1 EtOAc:Hexanes) to give 5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one in 91% yield (0.24 g).

reactant | 2-(cyclopropylamino)-N-(2-methoxy-4-methyl-3-pyridinyl)-3-pyridinecarboxamide | 1 mmol, 0.3 g | C1(CC1)NC1=NC=CC=C1C(=O)NC=1C(=NC=CC1C)OC | C16H18N4O2
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 91% yield | CC1=CC=NC2=C1NC(C1=C(N2)N=CC=C1)=O | C12H10N4O
